US04824996
4-Methyl-1-(1-oxotetradecyl)piperazine
680 mg (3 meq) of myristic acid and 486 mg (3 meq) of carbonyl diimidazole are reacted in a minimum volume of tetrahydrofuran at ambient temperature for 1.5 hours. 1-Methyl-piperazine (0.33 ml, 3 meq) is added and reacted overnight at ambient temperature. The reaction mixture is evaporated under reduced pressure, dried in vacuo and purified on a column of silica gel in the system CH2Cl2 :CH3OH (5:1). The fractions having Rf 0.80 on TLC silica gel CH2Cl2 :CH3OH (5:1)-iodine are combined, evaporated under reduced pressure (<30°) and dried in vacuo to yield 85 mg of title compound.

reactant | myristic acid | 680 mg, 3 meq | C(CCCCCCCCCCCCC)(=O)O | C14H28O2
reactant | carbonyl diimidazole | 486 mg, 3 meq | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 1-Methyl-piperazine | 0.33 ml, 3 meq | CN1CCNCC1 | C5H12N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-Methyl-1-(1-oxotetradecyl)piperazine | 85 mg | CN1CCN(CC1)C(CCCCCCCCCCCCC)=O | C19H38N2O
